US04284643
30 g of 3,4-difluoromethylenedioxy-α-isopropylphenylacetic acid were dissolved in 150 ml of thionyl chloride and the solution was heated to the boil for 1 hour. After distilling off excess thionyl chloride, the residue was distilled under a high vacuum. 3,4-Difluoromethylenedioxy-α-isopropyl-phenylacetic acid chloride of boiling point 83°-86° C./0.3 mm Hg was obtained.

reactant | 3,4-difluoromethylenedioxy-α-isopropylphenylacetic acid | 30 g | FC=1C=C(C=CC1F)C1(C(=O)OOCO1)C(C)C | C12H12F2O4
reactant | thionyl chloride | 150 ml | S(=O)(Cl)Cl | Cl2OS
product | 3,4-Difluoromethylenedioxy-α-isopropyl-phenylacetic acid chloride | FC=1C=C(C=CC1F)C1(C(=O)[ClH]OCO1)C(C)C | C12H13ClF2O3
